US07544835B2
2-Isopropoxy-3-[3-(2-{[(4-methoxyanilino)carbonyl]oxy}-ethyl)phenyl]propanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and 4-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C16H24O4
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | 2-Isopropoxy-3-[3-(2-{[(4-methoxyanilino)carbonyl]oxy}-ethyl)phenyl]propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=CC=C1)CCOC(=O)NC1=CC=C(C=C1)OC | C22H27NO6
